US06476032B2
B. 3-Carbobenzyloxy-9,10-Dichloro-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a]-Quinoxalin-5(6H)-One
By the same procedure described for Example 7B, from 0.75 g of 4-carbobenzyloxy-1-(5,6-dichloro-2-nitrophenyl)piperazine-2-carboxylic acid and 0.28 g of iron powder, there was obtained 0.34 g (49%) of the desired product as a brown solid.

reactant | 4-carbobenzyloxy-1-(5,6-dichloro-2-nitrophenyl)piperazine-2-carboxylic acid | 0.75 g | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-])C(=O)O | C19H17Cl2N3O6
catalyst | iron | 0.28 g | [Fe] | Fe
product | 3-Carbobenzyloxy-9,10-Dichloro-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a]-Quinoxalin-5(6H)-One | 0.34 g, 49% | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=C(C(=CC=C3NC2=O)Cl)Cl)CC1 | C19H17Cl2N3O3
